US04505907
3-[3-(Trifluoromethyl)phenoxy]-1-azetidinecarboxamide
To a solution of 2.2 g (0.01 mole) of 3-[3-(trifluoromethyl)phenoxy]azetidine in 45 ml of methylene chloride and 45 ml of absolute ethyl alcohol was added 7 g (0.066 mole) of nitrourea and the mixture was stirred at room temperature for 48 hr. The mixture was filtered. The filtrate was evaporated to dryness and the residue was partitioned between 75 ml methylene chloride and 75 ml water. The water layer was extracted three times with 50 ml of methylene chloride. The methylene chloride extracts were combined and evaporated to dryness. The residue was treated (washed) with a mixture of 1 ml methylene chloride and 20 ml of toluene and filtered. The precipitate was recrystallized from ethanol-water to give pale yellow crystals. The crystals were mixed with 2 ml of methylene chloride and 20 ml toluene and the mixture was heated on a steam bath for 2 hrs. The mixture was stored in a refrigerator for approximately 72 hrs. and filtered to give 1.2 g of the product as white crystalline needles, m.p. 151°-152° C.

reactant | 3-[3-(trifluoromethyl)phenoxy]azetidine | 0.01 mole, 2.2 g | FC(C=1C=C(OC2CNC2)C=CC1)(F)F | C10H10F3NO
reactant | nitrourea | 0.066 mole, 7 g | [N+](=O)([O-])NC(=O)N | CH3N3O3
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | 45 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl alcohol | 45 ml | C(C)O | C2H6O
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | 3-[3-(Trifluoromethyl)phenoxy]-1-azetidinecarboxamide | 1.2 g | FC(C=1C=C(OC2CN(C2)C(=O)N)C=CC1)(F)F | C11H11F3N2O2
